US07763622B2
Preparation of 5,7-dihydroxy-6-(2,3,5-trifluorophenyl)-[1,2,4]-triazolo-[1,5-a]pyrimidine
A mixture of 3-amino-1,2,4-triazole (14 g), diethyl(2,3,5-trifluorophenyl)-malonate (0.17 mol, obtained from Ex. 1) and tributylamine (50 ml) was heated at 180° C. for six hours. The reaction mixture was cooled to about 70° C. After addition of aqueous sodium hydroxide (21 g/200 ml H2O) the reaction mixture was stirred for 30 minutes. After separation of the organic phase the aqueous phase was extracted with diethyl ether. The aqueous phase was acidified with concentrated hydrochloric acid. The precipitate was collected by filtration and dried to yield 43 g of the title compound.

reactant | 3-amino-1,2,4-triazole | 14 g | NC1=NNC=N1 | C2H4N4
reactant | diethyl(2,3,5-trifluorophenyl)-malonate | 0.17 mol | C(C)OC(C(C(=O)OCC)C1=C(C(=CC(=C1)F)F)F)=O | C13H13F3O4
reactant | tributylamine | 50 ml | C(CCC)N(CCCC)CCCC | C12H27N
solvent | sodium hydroxide | 200 ml, 21 g | [OH-].[Na+]
product | 5,7-dihydroxy-6-(2,3,5-trifluorophenyl)-[1,2,4]-triazolo-[1,5-a]pyrimidine | 43 g | OC1=NC=2N(C(=C1C1=C(C(=CC(=C1)F)F)F)O)N=CN2 | C11H5F3N4O2
